US07678929B2
1.1. Preparation of 1,2-difluoro-3-prop-2-ynyloxybenzene
115.0 g (0.88 mol) of 2,3-difluorophenol are refluxed for 3 h together with 118.2 ml (17.7 mol) of propargyl bromide (80% soln. in toluene) and 146.6 g (138.2 mol) of potassium carbonate in 1.6 l of ethyl methyl ketone. The batch is filtered, and the filter residue is washed with MTBE. The filtrate is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:MTBE=3:1).

reactant | 2,3-difluorophenol | 0.88 mol, 115.0 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | propargyl bromide | 17.7 mol, 118.2 ml | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 138.2 mol, 146.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 1.6 l | CC(=O)CC | C4H8O
product | 1,2-difluoro-3-prop-2-ynyloxybenzene | FC1=C(C(=CC=C1)OCC#C)F | C9H6F2O
